* I2C Multi-byte Burst Test
* Master: ATmega4809 sends 16 bytes to Slave: ATmega328P
* Slave computes XOR checksum, outputs to R-2R DAC on PORTB

V_supply 5v 0 DC 5.0
R_sda_pull v_sda 5v 10k
R_scl_pull v_scl 5v 10k

* R-2R DAC
R_b0 pb0_dig v_j0 20k
R_pd0 pb0_dig 0 1MEG
R_b1 pb1_dig v_j1 20k
R_pd1 pb1_dig 0 1MEG
R_b2 pb2_dig v_j2 20k
R_pd2 pb2_dig 0 1MEG
R_b3 pb3_dig v_j3 20k
R_pd3 pb3_dig 0 1MEG
R_b4 pb4_dig v_j4 20k
R_pd4 pb4_dig 0 1MEG
R_b5 pb5_dig v_j5 20k
R_pd5 pb5_dig 0 1MEG
R_b6 pb6_dig v_j6 20k
R_pd6 pb6_dig 0 1MEG
R_b7 pb7_dig v_j7 20k
R_pd7 pb7_dig 0 1MEG
R_s0 v_j0 v_j1 10k
R_s1 v_j1 v_j2 10k
R_s2 v_j2 v_j3 10k
R_s3 v_j3 v_j4 10k
R_s4 v_j4 v_j5 10k
R_s5 v_j5 v_j6 10k
R_s6 v_j6 v_j7 10k
R_s7 v_j7 v_dac_out 10k
R_term v_dac_out 0 20k

A_dac_sda [v_sda] [v_a_sda 0] dac_bridge_i2c
A_dac_scl [v_scl] [v_a_scl 0] dac_bridge_i2c
A_dac_dac [v_dac_out] [v_a_dac 0] dac_bridge_model
.model dac_bridge_model dac_bridge(out_low=0.0 out_high=5.0 input_load=1e12)
.model dac_bridge_i2c dac_bridge(out_low=0.0 out_high=5.0 out_undef=5.0 input_load=1e12)

A_DUAL
+ [0 0 v_sda v_scl 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 pb0_dig pb1_dig pb2_dig pb3_dig pb4_dig pb5_dig pb6_dig pb7_dig
+ 0 0 0 0 0 0 0 0 v_scl v_sda 0 0 0 0 0 0]
+ [0 0 v_sda v_scl 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 pb0_dig pb1_dig pb2_dig pb3_dig pb4_dig pb5_dig pb6_dig pb7_dig
+ 0 0 0 0 0 0 0 0 v_scl v_sda 0 0 0 0 0 0]
+ d_cosim_dual

.model d_cosim_dual d_cosim(simulation="./cosim/libavr_cosim.so"
+ sim_args=["atmega4809","master.hex","atmega328p","slave.hex"]
+ queue_size=1024 delay=1e-9)

.control
tran 200n 5m
set width=120
print v(v_dac_out) v(v_sda) v(v_scl) v(v_a_sda) v(v_a_scl) > sim_matrix.log
.endc
