* HD44780 Character LCD (4-bit mode, write-only)
* Pins: RS E D4 D5 D6 D7
* The C++ oscilloscope instrument decodes the HD44780 protocol
* from dac_bridge analog waveforms on these 6 pins.

.subckt lcd_hd44780 rs e d4 d5 d6 d7
R_rs rs 0 1MEG
R_e  e  0 1MEG
R_d4 d4 0 1MEG
R_d5 d5 0 1MEG
R_d6 d6 0 1MEG
R_d7 d7 0 1MEG
.ends lcd_hd44780
