* 10x10 LED Matrix Subcircuit
* Pins: r0..r9 = row anodes, c0..c9 = column cathodes
* Each LED is modeled as a 330-ohm resistor at the row/col intersection.
* The oscilloscope instrument panel reads the row/col voltages
* and renders the LED matrix visualization.

.subckt led_matrix_10x10 r0 r1 r2 r3 r4 r5 r6 r7 r8 r9 c0 c1 c2 c3 c4 c5 c6 c7 c8 c9

R00 r0 c0 330
R01 r0 c1 330
R02 r0 c2 330
R03 r0 c3 330
R04 r0 c4 330
R05 r0 c5 330
R06 r0 c6 330
R07 r0 c7 330
R08 r0 c8 330
R09 r0 c9 330

R10 r1 c0 330
R11 r1 c1 330
R12 r1 c2 330
R13 r1 c3 330
R14 r1 c4 330
R15 r1 c5 330
R16 r1 c6 330
R17 r1 c7 330
R18 r1 c8 330
R19 r1 c9 330

R20 r2 c0 330
R21 r2 c1 330
R22 r2 c2 330
R23 r2 c3 330
R24 r2 c4 330
R25 r2 c5 330
R26 r2 c6 330
R27 r2 c7 330
R28 r2 c8 330
R29 r2 c9 330

R30 r3 c0 330
R31 r3 c1 330
R32 r3 c2 330
R33 r3 c3 330
R34 r3 c4 330
R35 r3 c5 330
R36 r3 c6 330
R37 r3 c7 330
R38 r3 c8 330
R39 r3 c9 330

R40 r4 c0 330
R41 r4 c1 330
R42 r4 c2 330
R43 r4 c3 330
R44 r4 c4 330
R45 r4 c5 330
R46 r4 c6 330
R47 r4 c7 330
R48 r4 c8 330
R49 r4 c9 330

R50 r5 c0 330
R51 r5 c1 330
R52 r5 c2 330
R53 r5 c3 330
R54 r5 c4 330
R55 r5 c5 330
R56 r5 c6 330
R57 r5 c7 330
R58 r5 c8 330
R59 r5 c9 330

R60 r6 c0 330
R61 r6 c1 330
R62 r6 c2 330
R63 r6 c3 330
R64 r6 c4 330
R65 r6 c5 330
R66 r6 c6 330
R67 r6 c7 330
R68 r6 c8 330
R69 r6 c9 330

R70 r7 c0 330
R71 r7 c1 330
R72 r7 c2 330
R73 r7 c3 330
R74 r7 c4 330
R75 r7 c5 330
R76 r7 c6 330
R77 r7 c7 330
R78 r7 c8 330
R79 r7 c9 330

R80 r8 c0 330
R81 r8 c1 330
R82 r8 c2 330
R83 r8 c3 330
R84 r8 c4 330
R85 r8 c5 330
R86 r8 c6 330
R87 r8 c7 330
R88 r8 c8 330
R89 r8 c9 330

R90 r9 c0 330
R91 r9 c1 330
R92 r9 c2 330
R93 r9 c3 330
R94 r9 c4 330
R95 r9 c5 330
R96 r9 c6 330
R97 r9 c7 330
R98 r9 c8 330
R99 r9 c9 330

.ends led_matrix_10x10
